US08580812B2
Step 2. 3-[(Adamantan-1-ylmethyl)carbamoyl]-1-[2-(3-cyanophenyl)-2-oxoethyl]-2-methylpyridinium bromide
A mixture of N-(adamantan-1-ylmethyl)-2-methylnicotinamide (300 mg, 1.05 mmol) and 3-(bromoacetyl)benzonitrile (235 mg, 1.05 mmol) in 10 mL of acetone is stirred at reflux for 2.5 days. After cooling to rt, most of the acetone is evaporated, and the remaining mixture is filtered. The collected solid is dried in vacuo to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.93 (1H, m), 8.86 (1H, bs), 8.62 (1H, d), 8.58 (1H, s), 8.33 (1H, d), 8.26 (1H, d), 8.14 (1H, t), 7.87 (1H, t), 6.60 (2H, s), 3.01 (2H, d), 2.67 (3H, s), 1.94 (3H, s), 1.63 (6H, m), 1.51 (6H, s).

reactant | N-(adamantan-1-ylmethyl)-2-methylnicotinamide | 1.05 mmol, 300 mg | C12(CC3CC(CC(C1)C3)C2)CNC(C2=C(N=CC=C2)C)=O | C18H24N2O
reactant | 3-(bromoacetyl)benzonitrile | 1.05 mmol, 235 mg | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-[(Adamantan-1-ylmethyl)carbamoyl]-1-[2-(3-cyanophenyl)-2-oxoethyl]-2-methylpyridinium bromide | [Br-].C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C(=[N+](C=CC2)CC(=O)C2=CC(=CC=C2)C#N)C | InChI=1S/C27H29N3O2.BrH/c1-18-24(6-3-7-30(18)16-25(31)23-5-2-4-19(11-23)15-28)26(32)29-17-27-12-20-8-21(13-27)10-22(9-20)14-27;/h2-7,11,20-22H,8-10,12-14,16-17H2,1H3;1H
